US04072498
Following the procedure of Example 95, but substituting α-ethyl-N,N,4-trimethyl-3-phenylpyrazole-1-acetamide for N,N,α,4-tetramethyl-3-phenylpyrazole-1-acetamide and propyl bromide for ethyl iodide, there was obtained α-ethyl-N,N,4-trimethyl-3-phenyl-α-propylpyrazole-1-acetamide having a melting point of 147°-148° C.

reactant | N,N,α,4-tetramethyl-3-phenylpyrazole-1-acetamide | CN(C(C(N1N=C(C(=C1)C)C1=CC=CC=C1)C)=O)C | C15H19N3O
reactant | propyl bromide | C(CC)Br | C3H7Br
reactant | ethyl iodide | C(C)I | C2H5I
product | α-ethyl-N,N,4-trimethyl-3-phenyl-α-propylpyrazole-1-acetamide | C(C)C(C(=O)N(C)C)(N1N=C(C(=C1)C)C1=CC=CC=C1)CCC | C19H27N3O
